US05206290
C-2: A mixture of 378 parts by weight of melamine and 810 parts by weight of 37% formalin was adjusted to pH 7-8 with sodium hydroxide. The mixture was heated to about 70° C. and when it became transparent, 1800 parts by weight of methyl alcohol and 1.9 parts by weight of oxalic acid were added thereto. Then, the mixture was boiled for several minutes. The reaction mixture was cooled, then filtrated and concentrated under reduced pressure to obtain polymethoxy methyl melamine (C-2). An analysis showed that the number of methanol bonded was about 3 mols per 1 mol of melamine.

reactant | melamine | N1=C(N)N=C(N)N=C1N | C3H6N6
reactant | formalin | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | methyl alcohol | CO | CH4O
product | methyl melamine | CNC1=NC(=NC(=N1)N)N | C4H8N6
